US04551469
1-(1,2,4-Triazol-1-yl)-2,3-diphenyl-propan-2-ol
Benzyl chloride (0.2 mole) was dissolved in dry diethyl ether (200 ml) and added dropwise to magnesium turnings (0.22 g atoms). After all the magnesium had reacted, the solution was refluxed for 1 hour and cooled to room temperature. Phenacyl chloride (0.1 mol) in dry diethyl ether (100 ml) was added dropwise over 1 hour at such a rate as to maintain gentle reflux. The solution was then refluxed for 2 hours, and cooled to room temperature; the mixture was poured into ice and the complex decomposed with ammonium chloride solution. The ethereal solution was washed several times with water (2×200 ml), dried (Na2SO4), and the solvent removed in vacuo to give, as a colourless oil, the crude chlorohydrin which was dissolved in dimethyl formamide (80 ml) and a solution of sodium triazole [prepared from sodium (0.1 g atoms) in methanol (40 ml) and 1,2,4-triazole (0.1 mol)] added dropwise at room temperature. After stirring at room temperature for 2 hours, the solution was warmed at 50° for 3 hours. The solvent was removed in vacuo and the residue poured into water to give a crystalline solid which was recrystallized from ethanol/petroleum ether to give the title compound, m.p. 124.5°.

reactant | Benzyl chloride | 0.2 mole | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | magnesium | 0.22 g | [Mg] | Mg
reactant | Phenacyl chloride | 0.1 mol | C(C(=O)C1=CC=CC=C1)Cl | C8H7ClO
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | sodium triazole | 0.1 mol, 40 ml, 0.1 g | N1N=NC=C1.[Na]
reactant | dimethyl formamide | 80 ml | CN(C=O)C | C3H7NO
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 1-(1,2,4-Triazol-1-yl)-2,3-diphenyl-propan-2-ol | N1(N=CN=C1)CC(CC1=CC=CC=C1)(O)C1=CC=CC=C1 | C17H17N3O
